US08222219B2
A mixed solution of 4-ethylbenzyl bromide (10.0 g), malononitrile (6.64 g), potassium carbonate (6.94 g) and tetra-n-butylammonium bromide (648 mg) in toluene (100 ml) was agitated at room temperature for 17 hours. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate twice. The extract was washed successively with water and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give 2-(4-ethylphenylmethyl)malononitrile (3.28 g) as a colorless solid. (2) A solution of the above 2-(4-ethylphenylmethyl) malononitrile (1.30 g) and hydrazine hydrate (0.86 ml) in ethanol (35 ml) was heated under reflux for 4 hours. Hydrazine hydrate (0.43 ml) was further added thereto and the mixture was further heated under reflux for 4 hours. The reaction mixture was cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was crystallized from ethyl acetate-diethyl ether to give 3,5-diamino-4-(4-ethylphenylmethyl)pyrazole (2.63 g) as pale pink powder. APCI-Mass m/Z 217 (M+H). (3) The above 3,5-diamino-4-(4-ethylphenylmethyl)pyrazole (1.30 g) was added to 50% aqueous phosphoric acid solution (19 ml), and further added thereto was water (10 ml). The mixture was cooled to 0° C., and thereto was added dropwise an aqueous solution (4 ml) of sodium nitrite (912 mg). The mixture was stirred at the same temperature for 30 minutes, and further stirred at room temperature for 4 hours. The reaction mixture was cooled again to 0° C., 10% aqueous sodium hydroxide solution was added thereto to adjust pH of the reaction mixture to 7. The mixture was extracted with ethyl acetate, washed successively with water and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=100:0-90:10) to give the desired 4-(4-ethylphenylmethyl)pyrazole (414 mg) as a pale brown semisolid. APCI-Mass m/Z 187 (M+H).

reactant | 3,5-diamino-4-(4-ethylphenylmethyl)pyrazole | 1.30 g | NC1=NNC(=C1CC1=CC=C(C=C1)CC)N | C12H16N4
reactant | phosphoric acid | 19 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium nitrite | 4 ml, 912 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 4-(4-ethylphenylmethyl)pyrazole | 414 mg | C(C)C1=CC=C(C=C1)CC=1C=NNC1 | C12H14N2
